US08729061B2
Step B1: (S)-benzyl 2-(dibenzylamino)butanoate
Under an atmosphere of argon, sodium hydroxide (15.5 g, 388 mmol, Eq: 2) and potassium carbonate (53.6 g, 388 mmol, Eq: 2) were combined with water (300 ml) at 0° C. to give a colorless solution. (S)-2-Aminobutanoic acid (20 g, 194 mmol, Eq: 1.00) was added slowly between 0-5° C. The suspension was then heated to 90° C. Then benzyl bromide (133 g, 92.1 ml, 776 mmol, Eq: 4) was added dropwise. The reaction was stirred overnight at 90° C. The reaction mixture was poured into water (300 ml) and extracted with ethyl acetate. The organic layers were dried over Na2SO4 and concentrated in vacuo. The title compound was obtained as a light yellow liquid (84 g, 98.6%, MS (m/e)=374.3 [M+H+]).

reactant | sodium hydroxide | 388 mmol, 15.5 g | [OH-].[Na+]
reactant | potassium carbonate | 388 mmol, 53.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-2-Aminobutanoic acid | 194 mmol, 20 g | N[C@H](C(=O)O)CC | C4H9NO2
reactant | benzyl bromide | 776 mmol, 92.1 ml, 133 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | (S)-benzyl 2-(dibenzylamino)butanoate | C(C1=CC=CC=C1)N([C@H](C(=O)OCC1=CC=CC=C1)CC)CC1=CC=CC=C1 | C25H27NO2
